* PSpice Model Editor - Version 9.2

*$
* [Disclaimer] (C) Copyright Texas Instruments Incorporated 1999 All rights reserved 
* Texas Instruments Incorporated hereby grants the user of this SPICE Macro-model a 
* non-exclusive, nontransferable license to use this SPICE Macro-model under the following 
* terms. Before using this SPICE Macro-model, the user should read this license. If the 
* user does not accept these terms, the SPICE Macro-model should be returned to Texas 
* Instruments within 30 days. The user is granted this license only to use the SPICE 
* Macro-model and is not granted rights to sell, load, rent, lease or license the SPICE 
* Macro-model in whole or in part, or in modified form to anyone other than user. User may 
* modify the SPICE Macro-model to suit its specific applications but rights to derivative 
* works and such modifications shall belong to Texas Instruments. This SPICE Macro-model is 
* provided on an "AS IS" basis and Texas Instruments makes absolutely no warranty with 
* respect to the information contained herein. TEXAS INSTRUMENTS DISCLAIMS AND CUSTOMER 
* WAIVES ALL WARRANTIES, EXPRESS OR IMPLIED, INCLUDING WARRANTIES OF MERCHANTABILITY OR 
* FITNESS FOR A PARTICULAR PURPOSE. The entire risk as to quality and performance is with 
* the Customer. ACCORDINGLY, IN NO EVENT SHALL THE COMPANY BE LIABLE FOR ANY DAMAGES, 
* WHETHER IN CONTRACT OR TORT,INCLUDING ANY LOST PROFITS OR OTHER INCIDENTAL, CONSEQUENTIAL,
* EXEMPLARY, OR PUNITIVE DAMAGES ARISING OUT OF THE USE OR APPLICATION OF THE SPICE 
* Macro-model provided in this package. Further, Texas Instruments reserves the right to 
* discontinue or make changes without notice to any product herein to improve reliability, 
* function, or design. Texas Instruments does not convey any license under patent rights or 
* any other intellectual property rights, including those of third parties.
*  
*  
* THS4031 SUBCIRCUIT
* HIGH SPEED MONLITHIC OPERATIONAL AMPLIFIER
* WRITTEN 12/9/99
* TEMPLATE=X^@REFDES %IN+ %IN- %VCC+ %VCC- %OUT @MODEL
* CONNECTIONS:      NON-INVERTING INPUT
*                   | INVERTING INPUT
*                   | | POSITIVE POWER SUPPLY
*                   | | | NEGATIVE POWER SUPPLY
*                   | | | | OUTPUT
*                   | | | | | 
*                   | | | | | 
*                   | | | | | 
.SUBCKT THS4031     1 2 3 4 5 
*
* INPUT *
Q1         33 1 17 NPN_IN 1
Q2         34 2 17 NPN_IN 1
*R1         17 06  1000  
*R2         17 07  1000  

* PROTECTION DIODES *
D2         5 3 D1N 
D1         4 5 D1N 
D4         4 2 D1N 
D6         4 1 D1N 
D5         1 3 D1N 
D8         22 1 D1N 
D7         22 2 D1N 
D3         2 3 D1N 

* SECOND STAGE *
Q3         08 Vref 33 PNP 0.5
Q6         10 08 09 NPN 0.25
Q4         10 Vref 34 PNP 0.5
Q5         08 09 11 NPN 1
Q7         09 09 12 NPN 1
Cc         0 10  Ct 35p  
R3         4 11  333  
R4         4 12  333

* SLEW RATE ENHANCEMENT *
G6         0 10 1 2 1e-3
  
* HIGH FREQUENCY SHAPING *
Lhf         18 19  13n  
Rhf         13 19  25  
Chf         0  13  21p  
Ehf         18 0 10 0 1

* OUTPUT *
Q8         13 13 35 PNP 1
Q9         13 13 14 NPN 1
Q10         3 35 15 NPN 12
Q11         4 14 16 PNP 14
R5         20 15  10  
R7         16 20  10
  
* COMPLEX OUTPUT IMPEDANCE *
R8         32 20  10  
R9         31 20  10 
L1         31 5  20n  
C1         32 5  25p  

* BIAS SOURCES *
G1         3 33 3 4 6.3e-6 
G2         3 34 3 4 6.3e-6
G3         0 35 3 4 5.4e-6
G4         17 4 3 4 5.25e-6
G5         14 0 3 4 6.1e-6
I1         3 33  DC 1.3e-3 
I2         3 34  DC 1.3e-3 
I3         0 35  DC 1.5e-3 
I4         17 4  DC 1.3e-3 
I5         14 0  DC 1.7e-3 
V1         3 Vref DC 2 

* MODELS *
.MODEL NPN_IN NPN
+ IS=170E-18 BF=400 NF=1 VAF=100 IKF=0.0389 ISE=7.6E-18
+ NE=1.13489 BR=1.11868 NR=1 VAR=4.46837 IKR=8 ISC=8E-15
+ NC=1.8 RB=25 RE=0.1220 RC=20 CJE=120.2E-15 VJE=1.0888 MJE=0.381406
+ VJC=0.589703 MJC=0.265838 FC=0.1 CJC=133.8E-15 XTF=272.204 TF=12.13E-12
+ VTF=10 ITF=0.147 TR=3E-09 XTB=1 XTI=5 KF=2.75E-13

.MODEL NPN NPN
+ IS=170E-18 BF=100 NF=1 VAF=100 IKF=0.0389 ISE=7.6E-18
+ NE=1.13489 BR=1.11868 NR=1 VAR=4.46837 IKR=8 ISC=8E-15
+ NC=1.8 RB=250 RE=0.1220 RC=200 CJE=120.2E-15 VJE=1.0888 MJE=0.381406
+ VJC=0.589703 MJC=0.265838 FC=0.1 CJC=133.8E-15 XTF=272.204 TF=12.13E-12
+ VTF=10 ITF=0.147 TR=3E-09 XTB=1 XTI=5

.MODEL PNP PNP
+ IS=296E-18 BF=100 NF=1 VAF=100 IKF=0.021 ISE=494E-18
+ NE=1.49168 BR=0.491925 NR=1 VAR=2.35634 IKR=8 ISC=8E-15
+ NC=1.8 RB=250 RE=0.1220 RC=200 CJE=120.2E-15 VJE=0.940007 MJE=0.55
+ VJC=0.588526 MJC=0.55 FC=0.1 CJC=133.8E-15 XTF=141.135 TF=12.13E-12
+ VTF=6.82756 ITF=0.267 TR=3E-09 XTB=1 XTI=5

.MODEL Ct CAP TC1=-0.0025

.MODEL D1N D IS=10E-15 N=1.836 ISR=1.565e-9 IKF=.04417 BV=30 IBV=10E-6 RS=45
+ TT=11.54E-9 CJO=2E-12 VJ=.5 M=.3333

.ENDS
*$
